US04224329
dl-trans-8-Fluoro-5-(p-fluorophenyl)-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole
Alternately, dl-trans-2-benzyl-8-fluoro-5-(p-fluorophenyl)-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole hydrochloride is refluxed in the presence of excess ethyl chloroformate or the corresponding methyl, isopropyl or n-butyl chloroformate esters, then hydrolyzed and worked up by the procedure described above to obtain the title compound.

reactant | trans-2-benzyl-8-fluoro-5-(p-fluorophenyl)-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole hydrochloride | Cl.C(C1=CC=CC=C1)N1C[C@@H]2[C@H](N(C=3C=CC(=CC23)F)C2=CC=C(C=C2)F)CC1
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | trans-8-Fluoro-5-(p-fluorophenyl)-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | FC1=CC=2[C@H]3[C@H](N(C2C=C1)C1=CC=C(C=C1)F)CCNC3 | C17H16F2N2
